US06069170
2-(4-Ethoxy-anilinomethylene)-propanedioic acid diethyl ester
The preparation was the same as in example 1. But one equivalent of p-Phenetidine was used instead of p-Anisidine and one equivalent of diethyl ethoxymethylenemalonate was used instead of dimethyl methoxymethylenemalonate. Ethanol was replaced by hexane. 21 g of the title compound was obtained which is a white solid melting at 55-56° C., UV 329 nm (E=802).

reactant | p-Phenetidine | one equivalent | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | diethyl ethoxymethylenemalonate | one equivalent | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Ethanol | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | 2-(4-Ethoxy-anilinomethylene)-propanedioic acid diethyl ester | 21 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=C(C=C1)OCC)=O | C16H21NO5
